US07799805B2
{2-[3-(tert-Butyl-dimethyl-silanyloxymethyl)-4-chloro-phenyl]-ethyl}-ethyl-carbamic acid tert-butyl ester
A mixture of {2-[3-(tert-butyl-dimethyl-silanyloxymethyl)-4-chloro-phenyl]-ethyl}-ethyl-amine (320 mg, 0.976 mmol), DIPEA (0.501 mL, 2.93 mmol) and Boc2O (320 mg, 1.47 mmol) in CH2Cl2 (10 mL) was stirred at rt for 2 h. CH2Cl2 (30 mL) was added, and the mixture was washed with aq. HCl 1M, aq. sat. NaHCO3 and brine. The org. layer was dried over MgSO4, filtered, and the solvents were removed under reduced pressure. Purification of the crude by FC (EtOAc/heptane 20:80) yielded the title compound (298 mg, 71%). LC-MS: tR=1.25 min; ES+: 428.19.

reactant | {2-[3-(tert-butyl-dimethyl-silanyloxymethyl)-4-chloro-phenyl]-ethyl}-ethyl-amine | 0.976 mmol, 320 mg | C(C)(C)(C)[SiH2]OC(C=1C=C(C=CC1Cl)CCNCC)(C)C | C17H30ClNOSi
reactant | DIPEA | 2.93 mmol, 0.501 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | Boc2O | 1.47 mmol, 320 mg | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
product | {2-[3-(tert-Butyl-dimethyl-silanyloxymethyl)-4-chloro-phenyl]-ethyl}-ethyl-carbamic acid tert-butyl ester | 298 mg, 71% | C(C)(C)(C)OC(N(CC)CCC1=CC(=C(C=C1)Cl)C(O[SiH2]C(C)(C)C)(C)C)=O | C22H38ClNO3Si
